US06989165B2
Phytochemistry: Isolation and structure of pyranocarbazole alkaloid—grinimbine, mp.176°. Isolation and synthesis of murrayanine (3-formyl-1-methoxycarbazole), mp. 168°, from bark.New alkaloids—mahanimbine , mp. 94°, koenimbine, mp. 194° and koenigicine , mp. 224°—from fruits and leaves. A carbazole carboxylic acid—mukoeic acid, mp. 242°—from stem bark. Curryangine and curryanine isolated and structure of former proposed. Cyclomahanimbine and mahanimbidine isolated from leaves and their structures proposed. Girinimbine, mahanimbine and isomahanimbine isolated from leaves and roots. Structure of murrayacine isolated from leaves and roots confirmed by synthesis. Structures of mahanine, koenine, koenigine, koenidine and koenimbine isolated from leaves. Mahanimbicine and bicyclomahanimbicine isolated. Scopolin isolated from leave. Synthesis of (±)O-methylmahanine. A new carbazole—murrayacinine isolated from stern bark and its structure determined. Structure of murrayazolidine isolated from stem bark, confirmed by synthesis. Structure of curryanine (murrayazolidine) and curryagine (murrayazoline, mahanimbidine) established by synthesis. A new carbazole alkaloid—mukonine isolated and its structure established. Mukonidine isolated and characterized as 2-hydroxy-3-carbomethoxycarbazole. Structure of mahanimboline elucidated. Mahanimbinol isolated from stem wood and its structure determined. Synthesis of murrayacinine. Synthesis of koenigicinc. Structure of new hexacyclic carbazole alkaloid—isomurrayazoline elucidated. Two new carbazole alkaloids—mukoline and mukolidine isolated and their structure determined. Isolation and structure of muconicine from leaves. Mukonal isolated from stem bark and its structure determined. Stem bark afforded 3-(1,1-dimethylallyl) xanthyletin. Koenoline isolated from root bark and its structure elucidated as 1-methoxy-3-hydroxy-methylcarbazole and confirmed by synthesis. Isolation of 2-methoxy-3-methylcarbazole from seeds and its structure elucidation. Another carbazole alkaloid—2-hydroxy-3-methylcarbazole—isolated from roots. Isolation of mahanine from leaves and its 13C-NMR studied. Isolation of a carbazole alkaloid—murrayazolinol from stem bark and its structure determination. Total synthesis of mukonine, murrayanine dnd koenoline. Total seed lipids (4.4%) contained neutral lipids (85.4%), glycolipids (5.1) and phospholipids (9.5%) neutral lipids consisted of triacylglycerols (73.9), free fatty acids (10.2%) and small amount of diacylglycerols, monoacylglycerols and sterols; glycolipids contained steryl glucoside and acylated steryl glucoside; the phospholipids consisted of phosphatidylethanolamine, phosphatidylcholine, lysophosphatidylethanolamine and lysophosphatidylcholine. Isolation of two new carbazole alkaloids—isomahanine and murrayanol from fruits and their characterization by X-ray analysis; in addition, mahanimbine, murrayazolidine, girinimbine, koenimbine and mahanine isolated.

reactant | 2-hydroxy-3-carbomethoxycarbazole | OC1=CC=2NC3=CC=CC=C3C2C=C1C(=O)OC | C14H11NO3
reactant | murrayacinine | CC(=CCCC1(C=CC2=C3C(=CC(=C2O1)C=O)C4=CC=CC=C4N3)C)C | C23H23NO2
product | mukolidine | COC1=CC=CC2=C1NC3=C2C=C(C=C3)C=O | C14H11NO2
